US07601716B2
1-(2,5-Difluorobenzyl)-7-(6-morpholin-4-yl-pyridin-3-yl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine
1-(2,5-Difluorobenzyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine (50 mg) was reacted with 4-[5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridin-2-yl]-morpholine as in General Procedure 4A to give the title compound as an off-white solid (48% yield). M.p. 206-207° C., LCMS: m/z=423.99 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 3.45-3.53 (m, 6H), 3.60-3.67 (m, 2H), 3.80-3.87 (m, 4H), 4.48 (s, 2H), 4.86 (s, 1H), 6.64 (d, J=8.6 Hz, 1H), 6.66 (s, 1H), 6.89-7.06 (m, 3H), 7.55 (dd, J=8.8 Hz, 2.5 Hz, 1H), 7.62 (d, J=1.8 Hz, 1H), 8.24 (d, J=2.3 Hz, 1H).

reactant | 1-(2,5-Difluorobenzyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 50 mg | FC1=C(CN2C3=C(NCC2)N=CC(=C3)I)C=C(C=C1)F | C14H12F2IN3
reactant | 4-[5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridin-2-yl]-morpholine | CC1(OB(OC1(C)C)C=1C=CC(=NC1)N1CCOCC1)C | C15H23BN2O3
product | 1-(2,5-Difluorobenzyl)-7-(6-morpholin-4-yl-pyridin-3-yl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 48% yield | FC1=C(CN2C3=C(NCC2)N=CC(=C3)C=3C=NC(=CC3)N3CCOCC3)C=C(C=C1)F | C23H23F2N5O
